US05273989
Example 29: 5-Aminomethyl-2-isoxazoline-3-propionic acid, racemate
The racemic product is prepared starting from tert.-butyl 4-nitrobutyrate and N-tert.-butoxycarbonylallylamine in analogy to Example 12. After cleavage of the protecting groups, it is taken up in acetone and the betaine is precipitated by adjusting the pH to 6 by means of conc. aq. ammonia. The melting point is 201° C. (with dec.).

reactant | tert.-butyl 4-nitrobutyrate | [N+](=O)([O-])CCCC(=O)OC(C)(C)C | C8H15NO4
reactant | N-tert.-butoxycarbonylallylamine | C(C)(C)(C)OC(=O)C=CCN | C8H15NO2
solvent | acetone | CC(=O)C | C3H6O
product | 5-Aminomethyl-2-isoxazoline-3-propionic acid | NCC1CC(=NO1)CCC(=O)O | C7H12N2O3
